US05736539
1-(5,6,7,8-Tetrahydronaphth-1-yl)piperazine dihydrochloride
A mixture of 1-amino-5,6,7,8-tetrahydronaphthalene (2.44 g, 16.60 mmol) and bis-(2-chloroethyl)amine hydrochloride (2.69 g, 15.09 mmol) in n-butanol (15 mL) was heated at reflux under nitrogen for 3 d. The reaction was cooled to 20° C. The white precipitate was collected by filtration and washed with n-butanol, then dried under vacuum. The title compound was obtained as a white solid (1.64 g). NMR (300 MHz, CD3OD) δ 7.1 (1H, t, J=8 Hz), 6.9 (1H, d, J=8 Hz), 6.15 (1H, d, J=8 Hz), 3.35 (4H, m), 3.1 (4H, m), 2.75 (4H, m), 1.8 (4m).

reactant | 1-amino-5,6,7,8-tetrahydronaphthalene | 16.60 mmol, 2.44 g | NC1=CC=CC=2CCCCC12 | C10H13N
reactant | bis-(2-chloroethyl)amine hydrochloride | 15.09 mmol, 2.69 g | Cl.ClCCNCCCl
solvent | n-butanol | 15 mL | C(CCC)O | C4H10O
product | 1-(5,6,7,8-Tetrahydronaphth-1-yl)piperazine dihydrochloride | Cl.Cl.C1(=CC=CC=2CCCCC12)N1CCNCC1 | InChI=1S/C14H20N2.2ClH/c1-2-6-13-12(4-1)5-3-7-14(13)16-10-8-15-9-11-16;;/h3,5,7,15H,1-2,4,6,8-11H2;2*1H
